US08044070B2
Production of 2-(1-cyclopentylpiperidin-4-yloxy)-5-(2-cyclopentyloxypyridin-5-yl)pyrimidine
60% sodium hydride (21 mg) and cyclopentyl bromide were added to a DMF solution (4 ml) of 2-(1-cyclopentylpiperidin-4-yloxy)-5-(1H-pyridin-2-on-5-yl)pyrimidine (120 mg), and stirred at room temperature for 2 hours. Water was added to the reaction mixture, and extracted with ethyl acetate. The organic layer was washed with saturated saline solution, dried with anhydrous magnesium sulfate, and concentrated under reduced pressure. The resulting residue was purified through silica gel column chromatography (chloroform:methanol=9:1) to obtain the entitled compound.

reactant | sodium hydride | 21 mg | [H-].[Na+]
reactant | cyclopentyl bromide | C1(CCCC1)Br | C5H9Br
reactant | DMF | 4 ml | CN(C)C=O | C3H7NO
reactant | 2-(1-cyclopentylpiperidin-4-yloxy)-5-(1H-pyridin-2-on-5-yl)pyrimidine | 120 mg | C1(CCCC1)N1CCC(CC1)OC1=NC=C(C=N1)C=1C=CC(NC1)=O | C19H24N4O2
solvent | Water | O | H2O
product | 2-(1-cyclopentylpiperidin-4-yloxy)-5-(2-cyclopentyloxypyridin-5-yl)pyrimidine | C1(CCCC1)N1CCC(CC1)OC1=NC=C(C=N1)C=1C=CC(=NC1)OC1CCCC1 | C24H32N4O2
